US07205433B2
L-Ala-OMe HCl salt (1.00 g, 7.16 mmol) was suspended in methyl acetate (15 ml). 4-Ethylbenzenesulfonic acid (4-EBS) (1.60 g, 8.57 mmol) was added, and the mixture was stirred for dissolution. This solution was concentrated under reduced pressure, methyl acetate (15 ml) was added, and the mixture was concentrated twice under reduced pressure. The obtained concentrate was cooled in a refrigerator. Since partial crystallization occurred, methyl acetate (15 ml) was added to dissolve the crystals at 50° C. This solution was stirred at room temperature to give a slurry. This slurry was cooled overnight in a refrigerator and the crystals were separated and dried to give 1.04 g of L-alanine methyl ester 4-ethylbenzenesulfonate (L-Ala-OMe 4-EBS salt) dry crystals (L-Ala-OMe 4-EBS salt content 100%, 3.42 mmol, yield 47.8%).

reactant | L-Ala-OMe HCl | 7.16 mmol, 1.00 g | N[C@@H](C)C(=O)OC.Cl
reactant | 4-Ethylbenzenesulfonic acid | 8.57 mmol, 1.60 g | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
solvent | methyl acetate | 15 ml | C(C)(=O)OC | C3H6O2
product | L-alanine methyl ester 4-ethylbenzenesulfonate | 1.04 g, yield 47.8% | C(C)C1=CC=C(C=C1)S(=O)(=O)O.COC([C@@H](N)C)=O | InChI=1S/C8H10O3S.C4H9NO2/c1-2-7-3-5-8(6-4-7)12(9,10)11;1-3(5)4(6)7-2/h3-6H,2H2,1H3,(H,9,10,11);3H,5H2,1-2H3/t;3-/m.0/s1
